* OVERALL BEST CANDIDATE: 00_Phase_2_5V_to_24V_High_Current_Boost_cand12_b1
* FITNESS SCORE: 0.6544
*
* Generated: 2026-06-08T04:09:15
* Constraint: Phase 2: 5V to 24V High Current (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 24
*   efficiency_target = 0.88
*   power_in = 120
* Candidate: 12 of 12
*
* 5V to 24V Boost, 120W
Vin in 0 5
L1 in sw 100u
M1 sw gate 0 0 NMOS W=10 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 4.8
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
